US05495048
A solution of 6.3 g of N-methoxy-N-methyl-trimethylsilanyioxybenzamide is added dropwise at 0° C. to a Grignard reagent prepared from 1 g of magnesium and 5.7 g of 1-bromo-4-methyl-3-pentene. The reaction mixture is left to stand at room temperature overnight while stirring. The mixture is treated with 10% aqueous KHSO4 solution and then extracted with ethyl acetate. The organic phase is washed neutral with 10% aqueous NaCl solution, then dried and concentrated. The silyl group is cleaved in 10% aqueous THF with 1N hydrochloric acid. Then, the product is taken up in methylene chloride, dried and evaporated. After chromatography over silica gel while eluting with methylene chloride/5% methanol, there are obtained 2.1 g of 1-(4-hydroxy-phenyl)-5-methyl-hex-4-en-l-one. MS: m/e 204 (M+).

reactant | N-methoxy-N-methyl-trimethylsilanyioxybenzamide | 6.3 g | CON(C(C1=C(C=CC=C1)O[Si](C)(C)C)=O)C | C12H19NO3Si
reactant | magnesium | 1 g | [Mg] | Mg
reactant | 1-bromo-4-methyl-3-pentene | 5.7 g | BrCCC=C(C)C | C6H11Br
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
product | 1-(4-hydroxy-phenyl)-5-methyl-hex-4-en-l-one | 2.1 g | OC1=CC=C(C=C1)C(CCC=C(C)C)=O | C13H16O2
